US05624918
Preparation of diethyl 4-(4-methylaminoquinazolin-2-yl)benzylphosphonate
A 3.7 g portion of diethyl 4-[N-(2-cyanophenyl)carbamoyl]benzylphosphonate and 10 ml of a 40% aqueous methylamine solution were dissolved in 50 ml of THF and refluxed with heating at 70° C. for 30 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (eluent: chloroform: methanol=100:1) and the crude crystals obtained were recrystallized from chloroform-n-hexane to provide 1.0 g of the objective compound as colorless crystals. Table 1 also shows the structure and physical property (melting point) of the compound thus obtained.

reactant | diethyl 4-[N-(2-cyanophenyl)carbamoyl]benzylphosphonate | C(#N)C1=C(C=CC=C1)NC(=O)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C19H21N2O4P
reactant | methylamine | CN | CH5N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | diethyl 4-(4-methylaminoquinazolin-2-yl)benzylphosphonate | 1.0 g | CNC1=NC(=NC2=CC=CC=C12)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C20H24N3O3P
